US04219659
In 40 ml of benzene, 3.93 g of sodium hydroxide (98 mmol) was crushed finely. Under vigorous agitation, 2.09 g of 1-(2-thienyl)-1-dichloromethylethanol (9.9 mmol) was added thereto and agitated for 24 hours at room temperature and then 20 ml of water was added thereto under ice cooling. After washing the diethylether, the aqueous alkaline solution was neutralized (about pH 2) with 6 N hydrochloric acid and extracted with diethylether. The ether layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate and then the ether was distilled off. Thus, 1.22 g of α-(2-thienyl)propionic acid was obtained (yield 79%).

reactant | sodium hydroxide | 98 mmol, 3.93 g | [OH-].[Na+]
reactant | 1-(2-thienyl)-1-dichloromethylethanol | 9.9 mmol, 2.09 g | S1C(=CC=C1)C(C)(O)C(Cl)Cl | C7H8Cl2OS
reactant | water | 20 ml | O | H2O
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | α-(2-thienyl)propionic acid | 1.22 g, yield 79% | S1C(=CC=C1)C(C(=O)O)C | C7H8O2S
